US04613609
1-[3-((2,6-Dimethylphenyl)sulfamoyl)propyl]-3-heptylimidazolium chloride
Combine 15.0 g (0.0919 mole) 1-heptyl-1H-imidazole and 25.5 g (0.0974 mole) 3-chloro-N-(2,6-dimethylphenyl)propanesulfonamide and heat for about 24 hours at 130° C. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonium hydroxide, 9:1). At the completion of the reaction, dissolve the resulting cooled oil in 500 ml H2O. Extract the resultant solution with 6×500 ml hexane. Extract aqueous layer with 3×500 ml CH2Cl2. Wash combined CH2Cl2 layers 1×250 ml saturated NaCl solution. Dry the methylene chloride solution over Na2SO4. Evaporate the CH2Cl2 to provide the title compound as an oil. Triturate the oil with Et2O to provide solid. Recrystallize by dissolving the solid in a minimum of hot acetone. Seed and chill the solution to provide white crystals.

reactant | 1-heptyl-1H-imidazole | 0.0919 mole, 15.0 g | C(CCCCCC)N1C=NC=C1 | C10H18N2
reactant | 3-chloro-N-(2,6-dimethylphenyl)propanesulfonamide | 0.0974 mole, 25.5 g | ClCCCS(=O)(=O)NC1=C(C=CC=C1C)C | C11H16ClNO2S
solvent | H2O | 500 ml | O | H2O
product | 1-[3-((2,6-Dimethylphenyl)sulfamoyl)propyl]-3-heptylimidazolium chloride | [Cl-].CC1=C(C(=CC=C1)C)NS(=O)(=O)CCC[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C21H34N3O2S.ClH/c1-4-5-6-7-8-13-23-15-16-24(18-23)14-10-17-27(25,26)22-21-19(2)11-9-12-20(21)3;/h9,11-12,15-16,18,22H,4-8,10,13-14,17H2,1-3H3;1H/q+1;/p-1
